US09034866B2
Synthesis of ethyl 9-bromo-4-(hydroxymethyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate
Boron trifluoride diethleherate (0.16 mL, 1.00 equiv) was added dropwise to a stirred solution of ethyl 9-bromo-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-oxirane]-2-carboxylate (500 mg, 1.31 mmol, 1.00 equiv) and Et3SiH (227.5 mg, 1.96 mmol, 1.50 equiv) in dichloromethane (25 mL) at 0° C. After being stirred for 15 min at room temperature the reaction solution was diluted with 50 mL of aqueous NaHCO3, extracted with dichloromethane, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:3) to give 340 mg (68%) of the titled compound as a off-white solid; LC-MS (ES, m/z) 384,386 [M+H]+.

reactant | Boron trifluoride | B(F)(F)F | BF3
reactant | ethyl 9-bromo-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-oxirane]-2-carboxylate | 1.31 mmol, 500 mg, 1.00 equiv | BrC1=CC2=C(OCC3(OC3)C3=C2N=C(S3)C(=O)OCC)C=C1 | C15H12BrNO4S
reactant | Et3SiH | 1.96 mmol, 227.5 mg, 1.50 equiv | [SiH](CC)(CC)CC | C6H16Si
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | ethyl 9-bromo-4-(hydroxymethyl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 340 mg, 68% | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)CO)C=C1 | C15H14BrNO4S
